US08476455B2
4-{N-[1H-imidazol-1-yl]-N-[(6-methoxy-benzothien-3-yl)methyl]amino}benzonitrile
3-Chloromethyl-6-methoxy-benzothiophene (12.35 g, 58.06 mmol) was added to a mixture of 4[N-(1H-imidazol-1-yl)amino]benzonitrile (9.72 g, 52.78 mmol), K2CO3 (14.60 g, 105.56 mmol) and potassium iodide (0.10 g, 0.60 mmol) in dry DMF (70 ml) at room temperature. The mixture was then stirred at room temperature overnight and after poured into water and extracted with ethyl acetate, dried over Na2SO4, filtered, and concentrated under vacuum to give the crude product as solid (14.30 g). Flash chromatography on silica gel (toluene/dioxan: 6/4) yielded the expected product (10.50 g, 55%, powder).

reactant | 3-Chloromethyl-6-methoxy-benzothiophene | 58.06 mmol, 12.35 g | ClCC1=CSC2=C1C=CC(=C2)OC | C10H9ClOS
reactant | 4[N-(1H-imidazol-1-yl)amino]benzonitrile | 52.78 mmol, 9.72 g | N1(C=NC=C1)NC1=CC=C(C#N)C=C1 | C10H8N4
reactant | K2CO3 | 105.56 mmol, 14.60 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 70 ml | CN(C)C=O | C3H7NO
catalyst | potassium iodide | 0.60 mmol, 0.10 g | [I-].[K+]
product | 4-{N-[1H-imidazol-1-yl]-N-[(6-methoxy-benzothien-3-yl)methyl]amino}benzonitrile | 10.50 g, 55% | N1(C=NC=C1)N(CC1=CSC2=C1C=CC(=C2)OC)C2=CC=C(C#N)C=C2 | C20H16N4OS
